US03950376
3-Butylthio-4-phenylthio-5-sulfamylbenzoic acid
A mixture of ethyl 3-butylthio-4-chloro-5-sulfamylbenzoate (0.85 g), thiophenol (0.6 ml), and dry ethanol (25 ml) containing 5 millimoles of sodium thiophenolate is refluxed for 6 hours. After evaporation in vacuo 1 N sodium hydroxide (20 ml) and ethanol (10 ml) are added, and the mixture is refluxed for 15 minutes. After cooling and extraction with diethyl ether, 3-butylthio-4-phenylthio-5-sulfamylbenzoic acid is precipitated from the aqueous layer by addition of 4 N hydrochloric acid. The precipitate is collected by filtration and recrystallized from aqueous ethanol to yield the desired acid having a melting point of 192° - 193° C.

reactant | ethyl 3-butylthio-4-chloro-5-sulfamylbenzoate | 0.85 g | C(CCC)SC=1C=C(C(=O)OCC)C=C(C1Cl)S(N)(=O)=O | C13H18ClNO4S2
reactant | thiophenol | 0.6 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium thiophenolate | 5 millimoles | C1(=CC=CC=C1)[S-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Butylthio-4-phenylthio-5-sulfamylbenzoic acid | C(CCC)SC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C17H19NO4S3
